US04029640
In 100 parts of n-propanol containing 30 wt. % of water, 10 parts of potassium p-styrenesulfonate and 7.5 parts of ammonium chloride were charged. The mixture was stirred at 20° C. for 3 hours. The reaction mixture was filtered and the filtrate was condensed and dried to obtain 8.9 parts of ammonium p-styrenesulfonate. Analysis showed that only 0.08 wt. % of K and 0.91 wt. % of Cl were included in the product.

reactant | n-propanol | C(CC)O | C3H8O
reactant | potassium p-styrenesulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
product | ammonium p-styrenesulfonate | C=CC1=CC=C(C=C1)S(=O)(=O)[O-].[NH4+] | InChI=1S/C8H8O3S.H3N/c1-2-7-3-5-8(6-4-7)12(9,10)11;/h2-6H,1H2,(H,9,10,11);1H3
